US05292734
6-Acetyl-2-butyl-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone
A suspension of 0.250 g of 6-acetyl-2-butyl-4(1H)-quinazolinone, 0.685 g of 5-[4'-(bromomethyl)-[1,1'-biphenyl]-2-yl]-1-(triphenylmethyl) -1H-tetrazole and 0.424 g of anhydrous potassium carbonate in 25.0 ml of dry acetone is heated at reflux for 16 hours. The reaction mixture is alowed to cool to room temperature, filtered and the filtrate evaporated in vacuo to a residue. The residue is purified by column chromatography on silica gel using 1:3 ethyl acetate-hexanes to give 0.43 g of the desired product as a solid, m.p. 104°-105° C.

reactant | 6-acetyl-2-butyl-4(1H)-quinazolinone | 0.250 g | C(C)(=O)C=1C=C2C(N=C(NC2=CC1)CCCC)=O | C14H16N2O2
reactant | 5-[4'-(bromomethyl)-[1,1'-biphenyl]-2-yl]-1-(triphenylmethyl) -1H-tetrazole | 0.685 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | potassium carbonate | 0.424 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 25.0 ml | CC(=O)C | C3H6O
product | 6-Acetyl-2-butyl-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone | 0.43 g | C(C)(=O)C=1C=C2C(N(C(=NC2=CC1)CCCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C47H40N6O2
